US08106077B2
3-(2,6-Dichloro-phenyl)-5-trifluoromethyl-3H-[1,2,3]triazole-4-carboxylic acid ethyl ester
A mixture of 2-Azido-1,3-dichloro-benzene (25.0 g, 132.9 mmol) and 4,4,4-trifluoro-but-2-ynoic acid ethyl ester (26.5 g, 159.6 mmol) in toluene (30 mL) are heated at 80° C. for 18 h. A large exotherm is observed at 25 minutes. The reaction is removed from heat until exotherm subsides. Two regioisomers are observed in a range of 1:1 to 3:1 in favor of the desired product. The reaction mixture is concentrated under reduced pressure to 51 g of crude material and purified via column chromatography using a gradient of 35-60% DCM in Hexanes to yield the title compound (28 g, 59%). ES/MS m/e 353.0 (M+1).

reactant | 2-Azido-1,3-dichloro-benzene | 132.9 mmol, 25.0 g | N(=[N+]=[N-])C1=C(C=CC=C1Cl)Cl | C6H3Cl2N3
reactant | 4,4,4-trifluoro-but-2-ynoic acid ethyl ester | 159.6 mmol, 26.5 g | C(C)OC(C#CC(F)(F)F)=O | C6H5F3O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2,6-Dichloro-phenyl)-5-trifluoromethyl-3H-[1,2,3]triazole-4-carboxylic acid ethyl ester | 28 g, 59% | C(C)OC(=O)C=1N(N=NC1C(F)(F)F)C1=C(C=CC=C1Cl)Cl | C12H8Cl2F3N3O2
